US04886814
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-N-(carboethoxymethyl)-2-hydroxy-2-(2-trifluoromethylthiazol-4-yl)ethanamine
0.21 g (0.005 mol) of N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethylthiazol-4-yl) ethanamine is dissolved in 10 ml of butan-2-one, and 0.5 ml of ethyl bromoacetate and 0.5 g of potassium carbonate are added, and the mixture is stirred at room temperature for 16 hours. The inorganic products are removed by filtration, and the solvent is removed by distillation. The remaining oil is purified on a silica gel column using toluene/ethyl acetate=85:15 as eluant. A colourless oil is obtained.

reactant | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethylthiazol-4-yl) ethanamine | 0.005 mol, 0.21 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C18H21F3N2O4S
reactant | ethyl bromoacetate | 0.5 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | butan-2-one | 10 ml | CC(CC)=O | C4H8O
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-N-(carboethoxymethyl)-2-hydroxy-2-(2-trifluoromethylthiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)C(F)(F)F)O)CC(=O)OCC | C22H27F3N2O6S
